.title KiCad schematic
J2 GND NC_01 NC_02 NC_03 /ADC0_0 NC_04 /P4_4 NC_05 /P4_3 NC_06 NC_07 NC_08 NC_09 NC_10 NC_11 /P7_7 /WAKEUP0 /P2_5 NC_12 NC_13 NC_14 NC_15 NC_16 NC_17 NC_18 NC_19 NC_20 NC_21 NC_22 /P3_7 /P6_7 NC_23 NC_24 NC_25 NC_26 NC_27 NC_28 NC_29 NC_30 NC_31 NEIGHBOR2
J1 GND VCC /P4_9 /P0_0 /P4_10 NC_32 NC_33 NC_34 NC_35 NC_36 NC_37 NC_38 NC_39 NC_40 NC_41 NC_42 NC_43 NC_44 NC_45 /P1_10 NC_46 /P1_11 NC_47 NC_48 NC_49 NC_50 NC_51 NC_52 NC_53 NC_54 NC_55 NC_56 NC_57 NC_58 NC_59 NC_60 NC_61 NC_62 NC_63 NC_64 NEIGHBOR1
J7 GND NC_65 NC_66 NC_67 NC_68 NC_69 NC_70 NC_71 NC_72 GND NC_73 NC_74 NC_75 NC_76 NC_77 NC_78 NC_79 NC_80 GND VCC BONUS_ROW
MH3 GND MOUNTING_HOLE
MH4 GND MOUNTING_HOLE
MH1 GND MOUNTING_HOLE
MH2 GND MOUNTING_HOLE
J3 Net-_C1-Pad2_ GND ANT_IN
J8 /VOUT /P7_7 TEST_2P
J9 /VOUT /P4_3 TEST_2P
J10 /VOUT /ADC0_0 TEST_2P
J4 /ENBL /P4_9 TEST_2P
J5 /ENBL /P0_0 TEST_2P
J6 /ENBL /P4_10 TEST_2P
U1 GND /RF_IN NC_81 Net-_J11-Pad2_ /rms_avg VCC NC_82 VCC NC_83 Net-_C5-Pad1_ /VOUT GND Net-_J17-Pad1_ Net-_J15-Pad1_ /ENBL Net-_J12-Pad2_ /P4_4 ADL5904
C3 VCC GND 100nF
C4 VCC GND 100pF
R1 Net-_C1-Pad2_ GND 82.5
C1 /RF_IN Net-_C1-Pad2_ 470nF
C6 /VOUT GND 10nF
R2 /rms_avg Net-_C2-Pad1_ 4.02
C2 Net-_C2-Pad1_ GND 100nF
C5 Net-_C5-Pad1_ /rms_avg 100nF
J13 /P1_10 Net-_J12-Pad2_ TEST_2P
J14 GND Net-_J12-Pad2_ TEST_2P
J12 /P1_11 Net-_J12-Pad2_ TEST_2P
J11 GND Net-_J11-Pad2_ Conn_01x02
J17 Net-_J17-Pad1_ /P2_5 TEST_2P
J18 Net-_J17-Pad1_ /WAKEUP0 TEST_2P
J15 Net-_J15-Pad1_ /P3_7 TEST_2P
J16 Net-_J15-Pad1_ /P6_7 TEST_2P
.end
